US05614544
To a solution of 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propyl]-2,4-oxazolidinedione (0.25 g) in tetrahydrofuran (THF) (10 ml)-ethanol (10 ml), sodium borohydride (0.05 g) was added, followed by stirring at room temperature for 2 hours. The reaction mixture was poured over water, neutralized with 2N HCl and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure; the residue was purified by silica gel column chromatography. From the fraction eluted with ethyl acetate-chloroform (1:1), 5-[3-[4 -[1-hydroxy-3-(5-methyl-2-phenyl-4oxazoly) propyl]phenyl]propyl]-2,4-oxazolidinedione (0.16 g, 64%) was obtained, which was then recrystallized from acetone-isopropyl ether to yield colorless needles having a melting point of 150°-151° C.

reactant | 5-[3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propyl]-2,4-oxazolidinedione | 0.25 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H24N2O5
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.05 g | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-[3-[4 -[1-hydroxy-3-(5-methyl-2-phenyl-4oxazoly) propyl]phenyl]propyl]-2,4-oxazolidinedione | 0.16 g, 64% | OC(CCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C25H26N2O5
